Name:  ___                  Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: SURGERY
 
Allergies: 
Effexor / shellfish derived
 
Attending: ___
 
Chief Complaint:
Abdominal pain
 
Major Surgical or Invasive Procedure:
ERCP ___
Laparoscopic cholecystectomy
 
History of Present Illness:
Ms. ___ is a ___ female without a significant past
medical history who presents with abdominal pain and is
transfered from the ___ for further evaluation of
possible gallstone pancreatitis.

Patient started having symptoms about 10 days ago with 
epigastric
pain that came and went.  She notes that the pain first started
after she had a meal of fried clams.  The pain progressively
became stronger and more persistent, at times radiating to her
back.  It was not associated with any nausea, vomiting, or
diarrhea.  She recalls no fevers, chills, chest pain, or
difficulty breathing.  She took omeprazole for about 6 days
without any improvements.  The pain eventually got bad enough
that she went to urgent care on ___.  At that time labs will
order as well as abdominal CT.

Her labs on ___ eventually came back showing elevated AST to
320, elevated ALT to 545, elevated alkaline phosphatase to 298,
normal total bilirubin at 1.0, and and elevated amylase at 869. 
Her CT scan from ___ showed sludge and/or gallstones within the
gallbladder with no CT findings of acute cholecystitis.

Given these abnormalities and persistent pain, she was referred
to the ED at ___.  There, labs were notable for AST 
580,
ALT 889, alkaline phosphatase 381, total bilirubin 1.2, and
lipase 214.  She was given IV fluids there and transferred to
___ for possible ERCP.

In the ___ ED, her initial vitals were temp 98.2, heart rate
72, blood pressure 116/72, O2 saturation 94% on room air.  Her
labs are notable for normal coags, normal CBC, sodium 146, 
normal
renal function, ALT 724, AST 378, alkaline phosphatase 381, 
total
bilirubin 0.9, and lipase was 57.

On arrival to the floor, patient reports that her abdominal pain
had already resolved for the past 24 hours.  She feels 
relatively
well and is anxious about getting the ERCP.

ROS: Pertinent positives and negatives as noted in the HPI.  All
other systems were reviewed and are negative.
 
Past Medical History:
- Anxiety disorder 
- Hyperlipidemia 
- Reactive airway disease 
- Osteoporosis 
 
Social History:
___
Family History:
No family history of any pancreatic or GI illnesses.
 
Physical Exam:
ADMISSION
PHYSICAL EXAMINATION:
VITALS: T 98.2, BP 145/79, HR 76, RR 18, O2 SAT 97 RA
GENERAL: Alert and in no apparent distress
EYES: Anicteric, pupils equally round and reactive
ENT: Ears and nose without visible erythema, masses, or trauma. 
Oropharynx without visible lesion, erythema or exudate
CV: Heart regular, no murmur, no S3, no S4.  No JVD.
RESP: Lungs clear to auscultation with good air movement
bilaterally.  Breathing is non-labored
GI: Abdomen soft, non-distended, RUQ tender to palpation.  Bowel
sounds present.  No HSM.
GU: No suprapubic fullness or tenderness to palpation
MSK: Neck supple, moves all extremities, strength grossly full
and symmetric bilaterally in all limbs.
SKIN: No rashes or ulcerations noted.
NEURO: Alert, oriented, face symmetric, gaze conjugate with 
EOMI,
speech fluent, moves all limbs, sensation to light touch grossly
intact throughout.
PSYCH: pleasant, appropriate affect.

ADMISSION
PHYSICAL EXAMINATION:
VSS
Gen: Comfortable, ambulating, concersant
Resp: No increased work of breathing
CV: RRR, no m/r/g
Abd: Minimally distended, appropriately tender, no 
rebound/guarding. Incisions, clean/dry/intact
Ext: Warm, well perfused, no edema

 
Pertinent Results:
ADMISSION
___ 01:09AM BLOOD WBC-10.5* RBC-4.82 Hgb-14.1 Hct-43.8 
MCV-91 MCH-29.3 MCHC-32.2 RDW-13.4 RDWSD-45.1 Plt ___
___ 01:09AM BLOOD Glucose-102* UreaN-9 Creat-0.6 Na-146* 
K-3.8 Cl-107 HCO3-21* AnGap-18*
___ 01:09AM BLOOD ALT-724* AST-378* AlkPhos-381* 
TotBili-0.9
___ 01:09AM BLOOD Lipase-157*

DISCHARGE
___ 07:15AM BLOOD ALT-355* AST-99* AlkPhos-265* TotBili-0.7

 
Brief Hospital Course:
This is a ___ year old female with past medical history of 
anxiety, admitted ___ with gallstone pancreatitis, status 
post ERCP with sphincterotomy and stone extraction, subsequently 
improving and undergoing cholecystectomy with ACS

# Gallstone Pancreatitis
# Choledocholithiasis with obstruction
# Transaminitis 
Patient presented to ___ with abdominal pain, abnormal 
LFTs (ALT 889, AST 580, AP 381, Tbili 1.2) and elevated lipase 
(214).  Patient transferred to ___ for additional management, 
where she underwent EUS and ERCP showing stone in CBD.  Patient 
underwent sphincterotomy and stone extraction with subsequent 
improvement in symptoms and lab values.  Patient was seen by 
surgery service, who recommended same-hospitalization 
laparoscopic cholescystectomy, and underwent the procedure on 
___ with Dr. ___. She tolerated the procedure well and was 
discharged to home from the PACU.

GERD
Continued PPI

Transitional Issues 
- Discharge LFTs were ALT 355, AST 99, AP 265, Tbili 0.7.  Would 
consider recheck at follow-up visit. 
- Patient noted to have cysts of pancreas seen on endoscopic 
ultrasound; per advanced endoscopy 3 month follow--up with Dr. 
___ GI was recommended for repeat evaluation of pancreas 
cysts
- Patient noted blood spotting in her underwear this admission; 
not felt to be related to her current acute admission; would 
consider outpatient workup 
 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Omeprazole 20 mg PO DAILY 

 
Discharge Medications:
1. Oxycodone 5 mg Q4H:PRN for severe pain
 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Gallstone pancreatitis
 
Discharge Condition:
Alert, Ambulatory, Interactive. Good. 
 
Discharge Instructions:
Ms. ___: 

It was a pleasure caring for you at ___.  You were admitted 
with abdominal pain and found to have inflammation in your 
pancreas (Pancreatitis).  You were seen by GI specialists and 
underwent a special endoscopy ("ERCP") that showed your 
pancreatitis was likely due to a gallstone.  The gallstone was 
removed.

You were seen by surgeons who recommended you have your 
gallbladder removed.  You had it removed and it will be 
important for you to follow up with Dr. ___ at the ___ ___ 
Surgery Clinic. You may call the office at ___ to make 
an appointment in the next 2 weeks.

It will be important for you to see Dr. ___ GI 
specialist) within 3 months to re-evaluate several cysts that 
were seen in your pancreas.
 
Followup Instructions:
___